US07214673B2
(S)-2-Isopropyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulene dihydrochloride hemihydrate
Combine (S)-2-isopropyl-10-(3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulene (0.59 g, 1.42 mmol)and 37% formaldehyde solution (0.13 mL, 1.56 mmol) in 1,2-dichloroethane (25 mL). Stir for 10 minutes and add sodium triacetoxy borohydride (0.451 g, 2.13 mmol). Stir an additional 30 minutes and then pour solution onto saturated sodium bicarbonate solution. Extract with methylene chloride to give the crude product. Silica gel chromatography, eluding with methylene chloride:methanol (100:2.5), gives the title compound as the free base. The dihydrochloride salt precipitates in ethyl acetate as a yellow solid: m.p. 200° C.; mass spectrum (ion spray): m/z=430 (M+1); Analysis for C25H33Cl2N7(0.5 H2O): calcd: C, 58.71; H, 6.70; N, 19.17; found: C, 58.77; H, 6.60; N, 19.05.

reactant | (S)-2-isopropyl-10-(3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulene | 1.42 mmol, 0.59 g | C(C)(C)N1N=C2C(=NC3=C(NC2=N1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | C24H29N7
reactant | formaldehyde | 1.56 mmol, 0.13 mL | C=O | CH2O
reactant | sodium triacetoxy borohydride | 2.13 mmol, 0.451 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (S)-2-Isopropyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulene dihydrochloride hemihydrate | O.Cl.Cl.C(C)(C)N1N=C2C(=NC3=C(NC2=N1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3.C(C)(C)N3N=C1C(=NC2=C(NC1=N3)C=CC=C2)N2C[C@@H](N(CC2)C)CCC2=CC=CC=C2.Cl.Cl | InChI=1S/2C25H31N7.4ClH.H2O/c2*1-18(2)32-28-23-24(29-32)26-21-11-7-8-12-22(21)27-25(23)31-16-15-30(3)20(17-31)14-13-19-9-5-4-6-10-19;;;;;/h2*4-12,18,20H,13-17H2,1-3H3,(H,26,29);4*1H;1H2/t2*20-;;;;;/m00...../s1
